US07135600B2
i) tert-Butyl (3,5-diiodophenyl)sulfonylcarbamate
Di tert-butyl dicarbonate (1.11 g) was added to a stirred solution of 3,5 di-iodo-benzenesulfonamide (Tsatsas, Chem. Chron. 1974, 3, 143) (1.6 g), 4-(dimethylamino)pyridine (50 mg) and triethylamine (0.8 ml) in dichloromethane (30 ml) at 5°. The solution was stirred at ambient temperature for 1 h, washed with 1M hydrochloric acid (30 ml), water (50 ml) and dried (Na2SO4). The solvent was evaporated to give the title compound (1.6 g). LCMS RT=4.24 min.

reactant | Di tert-butyl dicarbonate | 1.11 g | C(=O)(OC(C)(C)C)OC(=O)OC(C)(C)C | C10H18O5
reactant | 3,5 di-iodo-benzenesulfonamide | 1.6 g | IC=1C=C(C=C(C1)I)S(=O)(=O)N | C6H5I2NO2S
reactant | triethylamine | 0.8 ml | C(C)N(CC)CC | C6H15N
catalyst | 4-(dimethylamino)pyridine | 50 mg | CN(C1=CC=NC=C1)C | C7H10N2
solvent | dichloromethane | 30 ml | ClCCl | CH2Cl2
product | tert-Butyl (3,5-diiodophenyl)sulfonylcarbamate | 1.6 g | IC=1C=C(C=C(C1)I)S(=O)(=O)NC(OC(C)(C)C)=O | C11H13I2NO4S
